US04033845
4-[2-(6-Methyl-4-oxo-4H-1-benzopyran-2-yl)ethenyl]benzonitrile
This was prepared by reacting 6.36 g of 2'-hydroxy-5'-methyl-2-(methylsulfinyl)acetophenone with 6.36 g of p-cyanocinnamaldehyde in analogous fashion to 4-[2-(8-methoxy-4-oxo-4H-1-benzopyran-2-yl)ethenyl]benzonitrile. The material was recrystallized from toluene, mp 249°-51°; yield 3.5g (41%) λ max mμ (ε) 219 (19,300); 278 (13,500), 339 (41,000); ν max 825 (m), 980 (m), 1235 (m), 1580 (m), 1630 (m), 1670 (s), 2240 (m) cm-1.

reactant | 2'-hydroxy-5'-methyl-2-(methylsulfinyl)acetophenone | 6.36 g | OC1=C(C=C(C=C1)C)C(CS(=O)C)=O | C10H12O3S
reactant | p-cyanocinnamaldehyde | 6.36 g | C(#N)C1=CC=C(C=CC=O)C=C1 | C10H7NO
reactant | 4-[2-(8-methoxy-4-oxo-4H-1-benzopyran-2-yl)ethenyl]benzonitrile | COC1=CC=CC=2C(C=C(OC21)C=CC2=CC=C(C#N)C=C2)=O | C19H13NO3
product | 4-[2-(6-Methyl-4-oxo-4H-1-benzopyran-2-yl)ethenyl]benzonitrile | CC=1C=CC2=C(C(C=C(O2)C=CC2=CC=C(C#N)C=C2)=O)C1 | C19H13NO2
